US09388176B2
1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-(4-methylphenyl)urea
In a manner similar to that described in Example 163, 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride (75.0 mg, 0.251 mmol) and para-tolyl isocyanate (0.047 mL, 0.377 mmol) were reacted to give the title compound as a white solid (64 mg, 71%). 1H NMR (DMSO-d6) δ: 8.42 (s, 2H), 8.34 (s, 1H), 8.31 (d, J=5.0 Hz, 1H), 7.29-7.34 (m, 4H), 7.17 (d, J=5.3 Hz, 1H), 7.06 (d, J=8.5 Hz, 2H), 6.95-7.02 (m, 2H), 4.33 (s, 2H), 3.47 (t, J=5.9 Hz, 2H), 2.91 (t, J=5.9 Hz, 2H), 2.23 (s, 3H).

reactant | 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride | 0.251 mmol, 75.0 mg | Cl.Cl.C1N(CCC2=CC=NC=C12)C1=CC=C(N)C=C1
reactant | para-tolyl isocyanate | 0.377 mmol, 0.047 mL | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | 1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-(4-methylphenyl)urea | 64 mg, 71% | C1N(CCC2=CC=NC=C12)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C | C22H22N4O
